reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6]1=[N:7][C:3]1([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],81.0518034099313
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C@:5]1([O:7][H:21])[H:17])([H:8])([H:9])[H:10].[C:6]([H:11])([H:18])([H:19])[H:20],111.61512391618099
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:15],81.01742921817541
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],89.3163977505459
[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])([N:6]([H:12])[H:13])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],71.4007116438376
[O:1]([C:2](/[C:3]([O:4][H:10])=[C:5](/[O:6][H:11])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],55.928344306665494
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C:1]1([H:7])([H:8])[C@@:2]([C:6](=[C:5])[H:12])([H:9])[O:3][C:4]1([H:10])[H:11],67.2608627080254
[C:1](/[C:2](=[C:3](/[O:4][C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],62.146097464178
[C:1]([C:2]([C:3][C:4]([C:5]([O:6][H:12])([H:15])[H:16])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],15.166415327149203
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]([H:13])[C@@:4]1([O:5][H:9])[O:6][C:7]([H:14])([H:15])[H:16]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],55.1332176413393
[C:1]([C:2](=[C:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],6.698318570759703
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:8])[H:9])[H:7],60.3883240529935
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([n:4]1/[c:3](=[N:2]/[H:11])[c:7]([H:14])[c:6]([H:13])[n:5]1[H:12])([H:8])([H:9])[H:10],91.26477029843142
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4](=[C:5]=[C:6]([H:8])[H:14])([H:12])[H:13].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7],57.9109720805815
[C:1]([N:2]([C:3][N:4]([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],42.08541016858031
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:4]([C:3]([O:5][C:6](=[O:7])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10],118.67017045509701
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O-:4])=[C+:5][O:6][H:10])([H:8])[H:9])[H:7],83.1091118453513
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[C:5](=[O:6])([H:7])[H:11].[N:1]#[C:2][H:8].[O:3]=[C:4]([H:9])[H:10],83.5491575792719
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([N+:7]#[C-:6])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],39.170463413349
[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10].[O:1]([C:5](=[O:6])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],51.434074961689106
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])/[C:6]1=[N:7]/[H:8]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],91.2397179433306
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C@@:4]1([C:7]([H:14])([H:15])[H:16])[O:2][C:3]1([H:11])[H:12])[O:6][H:13])([H:8])([H:9])[H:10],104.055124206502
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9].[O:4]=[C:5]([O:6][H:7])[H:14],45.919731546588004
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1(/[C:5](=[C:6](\[O:7][H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10],70.535906578541
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[C:3](=[O:4])=[C:5]=[C:6]([H:7])[H:10].[O:1]=[C:2]([H:8])[H:9],44.6957737755449
